US07230136B2
Synthesis of di(tert-butyl)phenylphosphonium tetrafluoroborate:
In a round-bottomed flask, 60.6 mg of copper(I)bromide-dimethyl sulphide complex and 51.2 mg of lithium bromide are initially charged under protective gas. 20 ml of hexane, 4 ml of dichlorophenylphosphine and another 19 ml of hexane are subsequently added. The reaction solution is cooled to 0° C. 32.4 ml of a 2 M solution of tert-butylmagnesium chloride in ether are then slowly added dropwise. The mixture is subsequently allowed to slowly adjust to room temperature and is then stirred at room temperature for a further two hours. For workup, the mixture is cautiously admixed with 75 ml of degassed 2 M HBF4. Another 5 ml of 8 M HBF4 are then additionally added and stirred for 15 min. Filtration with suction is then effected and the filter cake is washed with a little cold water. The residue is dried under reduced pressure to constant weight. Yield: 7.9 g (86% of theory) purity >99%.

reactant | lithium bromide | 51.2 mg | [Br-].[Li+]
reactant | dichlorophenylphosphine | 4 ml | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | HBF4 | 2 M | [H+].[B-](F)(F)(F)F
reactant | HBF4 | 8 M, 5 ml | [H+].[B-](F)(F)(F)F
solvent | ether | CCOCC | C4H10O
solvent | hexane | 19 ml | CCCCCC | C6H14
solvent | hexane | 20 ml | CCCCCC | C6H14
product | di(tert-butyl)phenylphosphonium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)(C)[PH+](C1=CC=CC=C1)C(C)(C)C | InChI=1S/C14H23P.BF4/c1-13(2,3)15(14(4,5)6)12-10-8-7-9-11-12;2-1(3,4)5/h7-11H,1-6H3;/q;-1/p+1
